Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Intubation
PICC line placement ___

 
History of Present Illness:
___ with no significant past medical history who presents to 
emergency room by EMS s/p a fall earlier ___ the day with multple 
abrasions. Patient states for the last few days she has been 
increasingly short of breath. It was a mechanical fall. Patient 
remembers everything. She also states that she's been 
increasingly more tired. She was triggered hypoxia for 
non-rebreather. 

___ the ED, Pt states that she felt unwell prior to fall w/ cough 
"cold", was able to talk ___ full sentences ___ NRB 98% on Fi02 
100%, but tired prior to transfer and was intubated for hypoxic 
resp failure. Initial vitals:  98.8 122 128/65 16 92% 15L NRB 

Initial labs were remarkable for a WBC of 4.8, hgb 14.1, plt 
148, ALT 177, AST 177, AP 63, Tbili 1.5, Alb 3.6, Trop <0.01, Na 
128, Cl 92, CO3 20, Cr 1.6, gap 17, VBG was 7.47/36/53. 

CT head was negative. CT spine showed degenerative changes, CT 
chest showed multifocal pna; consolidation of RUL, and 
spiculated left ground glass and solid nodule. She was given 
azithromycin, ceftriaxone, vancomycin, unasyn, 1L NS, and 
duonebs. 
 
Past Medical History:
Osteopenia
colonic adenoma
lichen planus
carpal tunnel 

 
Social History:
___
Family History:
Sister had stage ___ colon cancer ___ late ___  
Daughter had non ___ lymphoma ___ late ___ (remission after  
rituximab, exact type uncertain) and also has hemochromatosis  

 
Physical Exam:
PHYSICAL EXAM: on arrival to ICU 
Vitals: T:98 BP:99/52 P:94 R: 18 FiO2:100 o2 sat 96% peep 5, tv 
400, rate 18  
GENERAL: Intubated/sedated 
HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear. 
multiple superficial abrasions, no step offs or crepitus, no 
nasal septal hematoma. pupils 1mm b/l  
NECK: supple, JVP not elevated, no LAD  
LUNGS: bibasliar decreased breath sounds, crackles throughout
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: see above 
NEURO:  intubated, sedated, non responsive to painful stimuli on 
drip

PHYSICAL EXAM ON DISCHARGE
VS: 98.4 98.4 94 (77-118) 140/83 (120-140s/60-80s) 18 96-99%/2L 
NC
General: NAD
HEENT: PERRL, nose clear, OP w/o lesions
Neck: supple, no LAD or JVD
CV: RRR, S1/S2 normal, no MRG
Lungs: exam improved, w/persistent inspiratory crackles at RML 
and lower lobes bilaterally 
Abdomen: +BS, S/NT/ND
GU: no Foley
Ext: well perfused, 2+ peripheral pulses 
Neuro: ___ upper and lower extremity strength ___ all direction 
except bilateraly upper extremity weakness (___) with abduction 
>15%. decreased ROM ___ bilateral shoulders.
Skin: abrasions on face healing
 
Pertinent Results:
LABS ON ADMISSION: 

___ 01:52PM   ___ TO  PTT-UNABLE TO  ___ 
TO 
___ 01:52PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 01:52PM   WBC-4.8 RBC-4.52 HGB-14.1 HCT-39.2 MCV-87 
MCH-31.3 MCHC-36.0* RDW-13.3
___ 01:52PM   ALBUMIN-3.6 CALCIUM-8.8 PHOSPHATE-2.4* 
MAGNESIUM-2.3
___ 01:52PM   cTropnT-<0.01
___ 01:52PM   estGFR-Using this
___ 03:05PM   NA+-131* K+-3.4 CL--94* TCO2-22
___ 03:39PM   O2 SAT-87
___ 03:39PM   ___ PO2-53* PCO2-36 PH-7.47* TOTAL 
CO2-27 BASE XS-2
___ 06:30PM URINE  MUCOUS-RARE
___ 06:30PM URINE  HYALINE-3* RBCCAST-9*
___ 06:55PM   ___ PTT-31.6 ___
___ 11:47PM   TYPE-ART PO2-169* PCO2-34* PH-7.45 TOTAL 
CO2-24 BASE XS-0
___ 11:47PM   LACTATE-1.6

OTHER PERTINENT LABS:

___ 02:52PM BLOOD ALT-738* AST-625* LD(LDH)-501* 
AlkPhos-380* TotBili-2.0*
___ 05:20AM BLOOD ALT-495* AST-226* LD(LDH)-277* 
AlkPhos-319* TotBili-1.2
___ 02:50AM BLOOD ALT-730* AST-500* LD(___)-502* 
CK(CPK)-104 AlkPhos-474* TotBili-1.2
___ 05:40AM BLOOD ALT-481* AST-175* LD(___)-332* 
AlkPhos-367* TotBili-0.8
___ 05:01AM BLOOD ALT-374* AST-123* AlkPhos-316* 
TotBili-0.9
___ 06:03AM BLOOD ALT-353* AST-129* AlkPhos-336* 
TotBili-0.9
___ 06:20AM BLOOD ALT-242* AST-76* AlkPhos-257* TotBili-0.7
___ 05:01AM BLOOD ___ Ferritn-3138* TRF-126*
___ 03:27PM BLOOD Hapto-297*
___ 02:50AM BLOOD ___
___ 02:52PM BLOOD calTIBC-153* Ferritn-9881* TRF-118*
___ 04:13AM BLOOD Hapto-256*
___ 05:01AM BLOOD Triglyc-114
___ 02:52PM BLOOD IgM HAV-NEGATIVE
___ 03:11AM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE
___ 02:52PM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 02:52PM BLOOD ___
___ 03:27PM BLOOD PEP-GROSSLY HE IgG-666* IgA-108 IgM-56 
IFE-NO MONOCLO
___ 02:52PM BLOOD IgG-510* IgA-68* IgM-28*
___ 06:20AM BLOOD Vanco-12.9

LABS ON DISCHARGE:

___ 04:54AM BLOOD WBC-10.4 RBC-3.41* Hgb-10.4* Hct-31.1* 
MCV-91 MCH-30.7 MCHC-33.5 RDW-14.5 Plt ___
___ 04:54AM BLOOD Plt ___
___ 04:54AM BLOOD Glucose-113* UreaN-11 Creat-0.6 Na-139 
K-4.0 Cl-105 HCO3-25 AnGap-13
___ 04:54AM BLOOD ALT-206* AST-62* AlkPhos-232* TotBili-0.7
___ 04:54AM BLOOD Calcium-8.6 Phos-3.1 Mg-2.0

IMAGING:

CHEST (PORTABLE AP) Study Date of ___ 
Opacities involving the right upper lobe and right middle lobe 
are not 
significantly increased. A left lower lobe opacity is improving 
from the prior study. 

CXR ___: Right PICC ___ the mid SVC.  Multifocal opacities are 
again demonstrated consistent with pneumonia and left lower lobe 
collapse.  No pneumothorax. 

CXR ___: There are increasing consolidations ___ the right upper 
lobe and at both lung bases consistent with known multifocal 
pneumonia.  No pulmonary edema. No pneumothorax. Overall cardiac 
and mediastinal contours are stable. Likely small layering 
effusions. 
  
RUQ ___:  
1. Patent hepatic vasculature. 
2. Unremarkable appearance of the liver with no biliary 
dilatation and no 
gallstones. No splenomegaly. 

CXR ___: There has been no radiographic improvement ___ 
multifocal consolidation over the past several days.  
Progressive mediastinal widening is probably due to venous 
engorgement. No pneumothorax. 
ET tube and nasogastric tube ___ standard placements 
respectively. 

CXR ___: As compared to the previous radiograph, the monitoring 
and support devices are ___ unchanged position. The lung volumes 
have slightly decreased and there is a new zone of parenchymal 
opacity at the left lung bases. ___ the appropriate clinical 
setting, this change could reflect pneumonia.  No other relevant 
changes are noted. They opacity ___ the right upper lobe is 
constant ___ severity ___ extent. 

CXR ___: As compared to ___ chest radiograph, multifocal 
bilateral areas of consolidation and atelectasis predominantly 
involving the right upper and both lower lobes are remarkable 
for improvement ___ the left retrocardiac region.  Some of the 
opacities have a nodular configuration and a dominant left lung 
nodule has been more fully characterized by chest CT of 1 day 
earlier. Correlation with that report is recommended. 

CT C-SPINE W/O CONTRAST Study Date of ___  
No fracture. Degenerative changes and anterolisthesis of C2 on 
C3 is likely degenerative but no prior available for comparison 
to document chronicity. Clinical correlation regarding need for 
additional imaging. 

CT CHEST W/O CONTRAST Study Date of ___ 
Near complete atelectasis of the bilateral lower lobes. 
Dependent regions of consolidation ___ the right upper lobe 
suspicious for infection. Spiculated left sided ground-glass and 
solid nodule ___ the left upper lobe which is nonspecific but 
underlying malignancy is possible and followup will be 
necessary. 

CT HEAD W/O CONTRAST Study Date of ___  
No acute intracranial process. 
 
___ CXR: Multi focal regions of consolidation particularly at 
the right mid lung medially. Findings could represent multi 
focal pneumonia with possible bilateral aspiration. With history 
of fall, contusion would be possible. Followup will be 
necessary. 

MICROBIOLOGY:

___ 1:53 pm BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 2:32 pm BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 6:30 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------     1 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 1:10 am MRSA SCREEN      Source: Nasal swab. 
                            **FINAL REPORT ___
   MRSA SCREEN (Final ___:    No MRSA isolated. 

___ 3:36 am URINE

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, ___
      infected patients the excretion of antigen ___ urine may 
vary. 

___ 1:53 am SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      STAPH AUREUS COAG +.    HEAVY GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S

___ 8:14 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 8:14 pm BLOOD CULTURE      Source: Line-aline. 

   Blood Culture, Routine (Pending): 

HERPES SIMPLEX VIRUS 1 AND 2 (IGG) 
  Test                          Result              Reference 
Range/Units
HSV 1 IGG TYPE SPECIFIC AB    >5.00  H            
HSV 2 IGG TYPE SPECIFIC AB    <0.90               
 
                          Value          Interpretation
                          -----          --------------
                          <0.90          Negative
                          0.90-1.10      Equivocal
                          >1.10          Positive

 
 
Brief Hospital Course:
Hospital course: Ms. ___ is a ___ year old woman with a past 
medical history of osteopenia and carpal tunnel syndrome 
admitted to the MICU with MRSA pneumonia, requiring intubation 
and vancomycin, extubated ___, transferred to the floor with 
___ oxygen requirement. By the time of discharge, she was on 2L 
NC, and doing well on vancomycin. Patient also with frozen 
shoulder, likely ___ the setting of intubation and period of 
prone positioning.

MICU COURSE:
Pt was intubated, sedated and improved on the vent. Pt was 
successfully extubated on ___ and had decreasing O2 
requirements. Pt with copious sputum production and was 
ambulatory with aid on ___. Pt still with cough but saturating 
___ 90's on 3L NC. She was started on vancomycin and cefepime. 
Cefepime was discontinued after 2 days due to the positive 
sputum culture. Influenza and legionella were negative. 
Hyponatremia and ___ improved with fluid resuscitation. An 
incidentally discovered UTI was treated with an additional day 
of ceftriaxone. Pt did have transaminitis with concommittant 
elevation ___ alk phos. RUQ US was negative. Per hepatology most 
likely source is shock liver. Hematology/oncology is consulted 
___ the setting of leukocytosis with left shift, rising  LFTs, 
ferritin approaching 10K, and hypogammaglobulinemia to exclude 
HLH or other underlying hematologic disorder.  Pt is not thought 
to have HLH. Heme wants to follow as an outpatient. 

Active issues:

#CA-MRSA PNA: Found to have heavy MRSA growth from sputum. 
Extubated ___ ___ AM, improving overall. Recommended duration 
of antibiotic therapy ___ days depending on disease severity. 
Vancomycin level not therapeutic (___) until ___ would prefer 
to continuing therapy until ___ (10 days therapeutic). On ___, 
cefepime was added for HCAP coverage when she had increased 
oxygen requirement; however, it was discontinued on ___ given 
low suspicion for HCAP once a final CXR read became available.

#Leukocytosis: Resolved. Was likely due to pneumonia. The 
patient is being appropriately treated with vancomycin for MRSA 
pneumonia. Urine culture grew e-coli and received 3 days of 
therapy. 

#Concern for HLH: No cytopenias or evidence of hemophagocytosis 
on smear. HLH unlikely per hem/onc. Hem/onc recommends trending 
ferritin/fibrinogen prior to d/c and as outpatient

#Upper extremity weakness: Weakness with shoulder flexion and 
abduction bilaterally. No explanation of C-spine CT. Most likely 
represents frozen shoulder versus axillary neuropraxia secondary 
to prone positioning due to difficult oxygenation. ___ was 
recommended at discharge.

#Hypogamaglubinemia: Low IgG, IgM, and IgA which is 
inappropriate ___ the setting of infection. Heme/onc recommended 
outpatient follow up

#Transaminitis: Improving. Most likely from shock liver per 
hepatology. ___, AMA, HAV IgM negative. Trend on an 
outpatient basis.

#UTI: S/p 3 days of treatment.

#Lung Nodule: Will need outpatient followup; spiculated 11 mm 
somewhat ground-glass and solid opacity seen ___ the left upper 
lobe  

Transitional issues:
-MRSA pneumonia coverage (day ___ therapeutic on ___ 
continue through ___, PICC line placed ___ and should be 
removed after completion of antibiotics.
-Spiculated Pulmonary Nodule needs followup 
-Obtain IgG/IgA/IgM levels as an outpatient as patient may have 
hypogammaglobulinemia 
-Trend ferritin and LFTs at PCP follow up (discharge ferritin 
downtrending to 1270, AST 62, ALT 206, AP 232)
-Monitor range of motion with frozen shoulder

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fish Oil (Omega 3) 1000 mg PO DAILY 
2. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral daily 
3. Amphetamine-Dextroamphetamine XR 30 mg PO DAILY 
4. BuPROPion (Sustained Release) 300 mg PO QAM 
5. Tretinoin 0.025% Cream 1 Appl TP QHS 

 
Discharge Medications:
1. Amphetamine-Dextroamphetamine XR 30 mg PO DAILY 
2. Acetaminophen 500 mg PO Q6H:PRN pain 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*20 Tablet Refills:*0
3. Guaifenesin ER 1200 mg PO Q12H 
RX *guaifenesin 600 mg 2 tablet(s) by mouth every 12 hours Disp 
#*60 Tablet Refills:*0
4. Vancomycin 1000 mg IV Q 12H 
RX *vancomycin 1 gram 1 g IV every 12 hours Disp #*6 Vial 
Refills:*0
5. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral daily 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Tretinoin 0.025% Cream 1 Appl TP QHS 
8. Sodium Chloride Nasal ___ SPRY NU ONCE Duration: 1 Dose 
RX *sodium chloride [Sea Soft Nasal Mist] 0.65 % 1 spray three 
times a day Disp #*1 Spray Refills:*0
9. BuPROPion (Sustained Release) 300 mg PO QAM 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
MRSA Pneumonia
Health care associated pneumonia
Lung nodule
Transaminitis
Urinary tract infection
Hyperferritinemia
Hypogamaglubinemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance at times

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you at ___. You were admitted 
because you fell; you were found to have a serious pneumonia, 
which was treated with antibiotics and required intensive care 
and intubation (a tube to help you breath). By the time of 
discharge to home with services, your breathing was much 
improved, and your doctors thought ___ were doing well enough to 
continue to receive IV antibiotics ___ a setting where you can 
also work with physical therapists to continue to get better.

We wish you all the best!
Your ___ Medicine Team
 
Followup Instructions:
___